US07531576B2
n-Amylamine (0.54 g) and potassium carbonate (0.98 g) were suspended in dimethylformamide (3.5 mL), and [[2′-nitro-1,1′-biphenyl-4-yl]methyl] bromide (0.51 g) was added in portions. Four hours later, ethyl acetate (20 mL) was added, and the resulting mixture was washed once with water (40 mL) and twice with brine (90 mL, each). The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column (chloroform/ethyl acetate) to afford N-[(2′-nitro-1,1′-biphenyl-4-yl)methyl]-N-pentylamine as a yellow oil (0.40 g). Yield: 77%.

reactant | n-Amylamine | 0.54 g | CCCCCN | C5H13N
reactant | potassium carbonate | 0.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | [[2′-nitro-1,1′-biphenyl-4-yl]methyl] bromide | 0.51 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)CBr | C13H10BrNO2
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | N-[(2′-nitro-1,1′-biphenyl-4-yl)methyl]-N-pentylamine | 0.40 g, Yield: 77% | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)CNCCCCC | C18H22N2O2
